US04980439
After 410 g (5 mol) of 1,5-hexadiene and 0.035 g of chloroplatinic acid had been placed into a 1 L three-necked flask equipped with an agitation mechanism, the contents were agitated. Then, 134 g (1 mol) of tetramethyldisiloxane were added dropwise into the resulting mixture for approximately 1.5 h while the temperature was being gradually raised to 80° C. Then, the contents were reacted at 80° C. for an additional 2 h. After unreacted components had been distilled and removed from the resulting mixture at 80° C. and 3 mm Hg, 178 g of di(5-hexenyl)tetramethyldisiloxane were obtained. 1H-NMR and 13C-NMR analyses revealed that the objective product had been synthesized.

reactant | 1,5-hexadiene | 5 mol, 410 g | C=CCCC=C | C6H10
reactant | tetramethyldisiloxane | 1 mol, 134 g | C[SiH2]O[Si](C)(C)C | C4H14OSi2
catalyst | chloroplatinic acid | 0.035 g | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | di(5-hexenyl)tetramethyldisiloxane | 178 g | C(CCCC=C)[Si](O[Si](C)(C)C)(C)CCCCC=C | C16H34OSi2
